US07943551B2
Step 3: Synthesis of 4-chloro-3-mercapto-2-methylbenzoic acid
6.61 g (purity 85% by weight, 100.1 mmol) of KOH were added to 4.80 g (16.7 mmol) of methyl 4-chloro-3-(dimethylaminocarbonylthio)-2-methylbenzoate in 150 ml of methanol, and the mixture was stirred under reflux for two days. The reaction mixture was freed from solvent, water was added to the residue, which was then acidified with 1M HCl, and the solid was collected by filtration. This gave 3.2 g of pure product.

reactant | KOH | 100.1 mmol, 6.61 g | [OH-].[K+]
reactant | methyl 4-chloro-3-(dimethylaminocarbonylthio)-2-methylbenzoate | 16.7 mmol, 4.80 g | ClC1=C(C(=C(C(=O)OC)C=C1)C)SC(=O)N(C)C | C12H14ClNO3S
reactant | water | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4-chloro-3-mercapto-2-methylbenzoic acid | ClC1=C(C(=C(C(=O)O)C=C1)C)S | C8H7ClO2S
